US05262390
A solution of 11.0 g (0.041 mole) of 4-fluorophenylmethyl 3-fluoro-4-nitrophenyl ether in 100 mL of glacial acetic acid and 10 mL of water was heated to 50° C. To this hot solution was added 1.0 g (0.18 mole) of powdered iron. The reaction mixture was allowed to cool to ambient temperature, where it stirred for an additional hour. The reaction mixture was filtered through a bed of Celite® filter aid, and the Celite bed was washed in succession with ethyl acetate and 200 mL of water. The washes and the filtrate were combined, and the organic phase was separated. The organic phase was dried with anhydrous magnesium sulfate, filtered, and the solvent was evaporated under reduced pressure, leaving a dark oil as a residue. This oil was placed on a silica gel column and eluted with methylene chloride. The product-containing fractions were combined and the solvent evaporated under reduced pressure, leaving 6.8 g of 4-fluorophenylmethyl 4-amino-3-fluorophenyl ether as a solid, m.p. 42°-43° C.

reactant | 4-fluorophenylmethyl 3-fluoro-4-nitrophenyl ether | 0.041 mole, 11.0 g | FC=1C=C(C=CC1[N+](=O)[O-])OCC1=CC=C(C=C1)F | C13H9F2NO3
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
solvent | water | 10 mL | O | H2O
catalyst | iron | 0.18 mole, 1.0 g | [Fe] | Fe
product | 4-fluorophenylmethyl 4-amino-3-fluorophenyl ether | 6.8 g | NC1=C(C=C(C=C1)OCC1=CC=C(C=C1)F)F | C13H11F2NO
